US07612114B2
[5-Methoxy-2-(6-methoxybenzothiazol-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine
To a suspension of 5-methoxy-2-(6-methoxybenzothiazol-2-yl)phenylamine (473 mg) and 4-(2-piperidin-1-ylethoxy)benzaldehyde (484 mg) in tetrahydrofuran (6 ml), dichloromethane (4 ml) and acetic acid (4 ml) was added borane-methyl sulfide complex (0.18 ml), and the solution was stirred for 6 hours at room temperature. The solution was neutralized with ammonia solution on an ice bath, extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (132 mg).

reactant | 5-methoxy-2-(6-methoxybenzothiazol-2-yl)phenylamine | 473 mg | COC=1C=CC(=C(C1)N)C=1SC2=C(N1)C=CC(=C2)OC | C15H14N2O2S
reactant | 4-(2-piperidin-1-ylethoxy)benzaldehyde | 484 mg | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | [5-Methoxy-2-(6-methoxybenzothiazol-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine | 132 mg | COC=1C=CC(=C(C1)NCC1=CC=C(C=C1)OCCN1CCCCC1)C=1SC2=C(N1)C=CC(=C2)OC | C29H33N3O3S
